US06809200B2
A mixture of 3-ethyl-4-nitro-1H-pyrazole-5-carboxamide (prepared as in WO 98/49166) (20.0 g, 0.11 mol), potassium carbonate (29.9 g, 0.22 mmol) and cesium carbonate (7.08 g, 21.7 mmol) were stirred together at room temperature. After 15 minutes 4(2-chloroethyl)morpholine.HCl (22.2 g, 0.12 mol) was added and the reaction mixture was heated at 55° C. for 16 h. The reaction mixture was concentrated in vacuo, and then partitioned between water (500 mL) and ethyl acetate (350 mL). Solid sodium carbonate was added until the pH reached 10, and then the organic layer was separated. The aqueous layer was extracted with further ethyl acetate (150 mL). The combined organic layers were concentrated in vacuo, combined with 1.6 g of a previous identical batch and purified by flash column chromatography (eluting with methanol:ethyl acetate:NH3 0:100:0 to 20:80:1). Two products were separated. The first product was triturated from diethyl ether to yield 3-ethyl-1-[2-(4-morpholinyl)ethyl]-4-nitro-1H-pyrazole-5-carboxamide as cream coloured crystals (16.2 g, 54.5 mmol).

reactant | 3-ethyl-4-nitro-1H-pyrazole-5-carboxamide | 0.11 mol, 20.0 g | C(C)C1=NNC(=C1[N+](=O)[O-])C(=O)N | C6H8N4O3
reactant | potassium carbonate | 0.22 mmol, 29.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | cesium carbonate | 21.7 mmol, 7.08 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4(2-chloroethyl)morpholine | ClCCN1CCOCC1 | C6H12ClNO
reactant | HCl | 0.12 mol, 22.2 g | Cl | ClH
product | 3-ethyl-1-[2-(4-morpholinyl)ethyl]-4-nitro-1H-pyrazole-5-carboxamide | C(C)C1=NN(C(=C1[N+](=O)[O-])C(=O)N)CCN1CCOCC1 | C12H19N5O4
